US08242134B2
2-(1-{[(S)-Cyclopropyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-2-oxo-propyl)-6-fluoro-benzoic acid
4-Acetyl-3-{[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-amino}-8-fluoro-2-benzopyran-1-one (14.30 g, 38.72 mmol) was dissolved in a mixture of tetrahydrofuran (50 mL) and methanol (50 mL) and placed on an ice/water bath with stirring. NaOH (1 M in H2O, 100 ml) was added and stirring continued for 1 hour. The cold bath removed and the mixture was allowed to warm to r.t. (20° C.) during 1 hour. The reaction mixture was poured into ice-water mixture (200 g+200 ml), followed by slow addition of 2 M aq. HCl (200 mL) and extracted with ethyl acetate (200 mL), washed with sat. aq. NaCl, dried (Na2SO4), filtered and evaporated to give the title compound (14.65 g, yield 97.7%) as a pale brown foam. The crude product was used in the next step without further purification. LC-MS (m/z) 388.3 (MH+); tR=1.2. 1H NMR (500 MHz, DMSO-d6): a mixture of tautomers and diastereoisomers.

reactant | 4-Acetyl-3-{[(S)-cyclopropyl-(3-fluoro-phenyl)-methyl]-amino}-8-fluoro-2-benzopyran-1-one | 38.72 mmol, 14.30 g | C(C)(=O)C1=C(OC(C2=C1C=CC=C2F)=O)N[C@H](C2=CC(=CC=C2)F)C2CC2 | C21H17F2NO3
reactant | NaOH | 1 M, 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 2-(1-{[(S)-Cyclopropyl-(3-fluoro-phenyl)-methyl]-carbamoyl}-2-oxo-propyl)-6-fluoro-benzoic acid | 14.65 g, yield 97.7% | C1(CC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C(C(C)=O)C1=C(C(=O)O)C(=CC=C1)F | C21H19F2NO4
